US06953787B2
7-Hydroxy-8-iodo-1-methyl-2,3,4,5-tetrahydro-1H-3-benzazepine
A solution of N-trifluoroacetyl-7-hydroxy-8-iodo-1-methyl-2,3,4,5-tetrahydro-1H-3-benzazepine (25 mg, 0.063 mmol) in methanol (2 mL) was treated with 15% aqueous NaOH (2 mL), and stirred overnight at 20 C. The product mixture was diluted with water (5 mL), extracted twice with EtOAc (5 mL), the combined organic phases were washed with brine (5 mL), dried with Na2SO4 and concentrated to give 13 mg of a white solid. 1H NMR (400 MHz, CD3OD) d 7.46 (s, 1 H), 6.64 (s, 1 H), 3.16 (m, 3 H), 2.94 (m, 3 H), 2.81 (m, 1 H), 1.35 (d, J=7 Hz, 3 H). MS calculated for C11H14INO+H: 304, observed: 304.

reactant | N-trifluoroacetyl-7-hydroxy-8-iodo-1-methyl-2,3,4,5-tetrahydro-1H-3-benzazepine | 0.063 mmol, 25 mg | FC(C(=O)N1CCC2=C(C(C1)C)C=C(C(=C2)O)I)(F)F | C13H13F3INO2
reactant | NaOH | 2 mL | [OH-].[Na+]
solvent | methanol | 2 mL | CO | CH4O
solvent | water | 5 mL | O | H2O
product | 7-Hydroxy-8-iodo-1-methyl-2,3,4,5-tetrahydro-1H-3-benzazepine | 13 mg | OC1=CC2=C(C(CNCC2)C)C=C1I | C11H14INO
